US08471005B2
N-tert-Butyl-3-[2-(3-methyl-3H-benzimidazol-5-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide
Following the synthetic and purification procedures described in Example 1293d, N-tert-butyl-3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide (103 mg, 0.262 mmol) was coupled with 3-methyl-3H-benzimidazol-5-ylamine (66 mg, 0.45 mmol) at 105° C. for 120 h to afford the title compound. Yield of TFA salt: 78 mg (50%) of brown powder; LC/MS: 476 (M+H); HPLC: 97% pure, RT=2.64 min; 1H NMR: (DMSO, δ) 10.04 (s, 1H), 9.38 (s, 1H), 9.12 (s, 1H), 8.49 (s, 1H), 8.41 (d, J=8.0, 1H), 8.31 (s, 1H), 7.87 (d, J=8.0, 1H), 7.79 (m, 3H), 7.61 (s, 1H), 7.24 (d, J=4.9, 1H), 7.07 (d, J=4.9, 1H), 3.81 (s, 3H), 1.08 (s, 9H).

reactant | N-tert-butyl-3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | 0.262 mmol, 103 mg | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)S(=O)C | C17H20N4O3S2
reactant | 3-methyl-3H-benzimidazol-5-ylamine | 0.45 mmol, 66 mg | CN1C=NC2=C1C=C(C=C2)N | C8H9N3
product | N-tert-Butyl-3-[2-(3-methyl-3H-benzimidazol-5-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(N=CN1C)C=C2 | C24H25N7O2S
